US06762201B1
Preparation of N-[(2-amino-5-{N-methyl-N-[(1-methylindol-2-yl)methyl]carbamoyl}phenyl)methyl]-N-methylacetamide
To a stirred solution of 4-amino-3-[(N-methylacetylamino)methyl]benzoic acid trifluoro acetate (0.73 g, 2.17 mmole), from Procedure 3, in DMF (20 mL) at RT was added diisopropylethyl amine (0.83 ml, 4.78 mmole), HOBt (0.32 g, 2.39 mmole), 1-methyl-2-(methylaminomethyl)indole (0.40 g, 2.39 mmole) and finally EDC (0.45 g, 2.39 mmole). After 12 hr, the reaction contents were poured onto H2O (100 mL) and extracted with EtOAc (2×100 mL). The organic phases were combined and sequentially washed with H2O (100 mL) and brine. Drying over Na2SO4 and purification on silica (CHCl3/CH3OH. 95:5) afforded the title compound (0.73 g, 89%) as a light yellow solid: MS (ES) m/e 379 (M+H)+.

reactant | 4-amino-3-[(N-methylacetylamino)methyl]benzoic acid trifluoro acetate | 2.17 mmole, 0.73 g | FC(C(=O)O)(F)F.NC1=C(C=C(C(=O)O)C=C1)CNC(CC)=O
reactant | diisopropylethyl amine | 4.78 mmole, 0.83 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 2.39 mmole, 0.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-2-(methylaminomethyl)indole | 2.39 mmole, 0.40 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | EDC | 2.39 mmole, 0.45 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[(2-amino-5-{N-methyl-N-[(1-methylindol-2-yl)methyl]carbamoyl}phenyl)methyl]-N-methylacetamide | 0.73 g, 89% | NC1=C(C=C(C=C1)C(N(CC=1N(C2=CC=CC=C2C1)C)C)=O)CN(C(C)=O)C | C22H26N4O2
